US05294618
Step 1: 1,2,3,4,5,6-Hexahydro-3-methylbenz[f]isoquinoline
Following the procedure of Example 1, step 3, 10 g (70 mmol) of 1-methyl-3,4-dihydronaphthalene and 22.55 g (278 mmol) of 37% formaldehyde solution in 60 ml of acetic acid were reacted with 10.8 g (0.16 mol) of methylamine hydrochloride. Chromatography on flash silica, eluting with 10% methanol/dichloromethane gave 6.0 g (44%) of the title product as a yellow oil. The hydrochloride salt was made using ethereal hydrogen chloride. Upon evaporation of the solvent and recrystallisation from ethyl acetate/ethanol, the title product hydrochloride was obtained, m.p. 198°-200° C. NMR δ(D2O) 2.23 (2H, t), 2.74-3.01 (7H, m), 3.35 (1H, m), 3.72 (1H, m), 3.90-3.95 (2H, m), 7.27-7.33 (4H, m). m/z (FAB+) 200 (M+H)+.

reactant | 1-methyl-3,4-dihydronaphthalene | 70 mmol, 10 g | CC1=CCCC2=CC=CC=C12 | C11H12
reactant | formaldehyde | 278 mmol, 22.55 g | C=O | CH2O
reactant | methylamine hydrochloride | 0.16 mol, 10.8 g | Cl.CN
reactant | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 1,2,3,4,5,6-Hexahydro-3-methylbenz[f]isoquinoline | 6.0 g, 44% | CN1CC=2CCC3=C(C2CC1)C=CC=C3 | C14H17N
